Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
Soma / NSAIDS (Non-Steroidal Anti-Inflammatory Drug)
 
Attending: ___.
 
Chief Complaint:
Cervical Spinal Stenosis
 
Major Surgical or Invasive Procedure:
___ - C5-6 ACDF

 
History of Present Illness:
Mr. ___ is a ___ year-old male who presented to ___ ED on 
___ following 2 weeks of right shoulder pain with right 
upper extremity weakness and tingling. He reports that two weeks 
ago he was traveling with a heavy bag. He lifted the bag of 
approximately 50 lbs onto his shoulder, at which time he felt a 
pop in his neck and acute shoulder pain. He unerwent an MR 
___ ___ that showed "Mild disc protrusion with a small 
extrusion at C5-6 causing impingement of the thecal sac on the 
right and mild bilateral neural foraminal narrowing." The 
patient decided to be evaluated in the ED due to progressive 
weakness and continued dropping of items from the right hand 
involuntarily. 

 
Past Medical History:
PMHx:
- Crohn's disease, has been in remission sine ___
- anxiety
- tonsillectomy
- deviated septum repair

 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
Gen: WD/WN, comfortable, NAD.
HEENT: 
Pupils: PERRL ___        
EOMs: Intact.

Extrem: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.

Motor:
      D   B   T    WE   WF  Intrins  IP   Q  H   AT  ___    G
R     ___    5    5    3        ___    5   5     5
Positive Right ___.
No clonus.

Sensation: Intact to light touch and pinprick bilaterally.
Numbness and tingling of right first three digits. 

Reflexes: B  T  Br  Pa  Ac
Right     2+ 2+ 2+  2+  2+
Left      2+ 2+ 2+  2+  2+

PHYSICAL EXAMINATION ON DISCHARGE:

Neuro:
Mental status: Awake and alert, cooperative with exam, normal 
affect.
Orientation: Oriented to person, place, and date.

Motor:
      D   B   T    WE   WF  Intrins  IP   Q  H   AT  ___    G

Sensation: Intact to light bilaterally except numbness and 
tingling of right lateral thumb. 

C-Collar in place. 
Wound c/d/i, closed with steri-strips.
 
Pertinent Results:
Cervical Spine AP/Lateral X-Rays: ___
Anterior fixation of C5-C6 without any evidence of hardware 
complication.
 
Brief Hospital Course:
Mr. ___ was admitted to the Neurosurgery department at ___ 
on ___ with a C5 disc herniation with complaints of pain and 
right upper extremity numbness. The pain service was consulted 
and recommended adding Gabapentin and Diazepam. He remained 
neurologically stable and underwent pre-operative work-up in 
anticipation for surgery. Risks and benefits of operative 
intervention were discussed with the patient, who wished to 
proceed. 

On ___, the patient proceeded to the operating room for 
elective C5-6 ACDF. Surgery was uncomplicated and well-tolerated 
by the patient. He was extubated in the OR and transitioned to 
the PACU for routine post-operative care without events. He was 
subsequently admitted to the inpatient floor. On POD#1, the 
patient noted improvement in the numbness of his right hand. His 
motor examination remained stable. He underwent x-rays performed 
and showed good placement of instrumentation. The Pain Service 
were consulted and recommended discontinuing the IV Dilaudid and 
focuing solely on oral pain medication as it is longer lasting. 
On POD#2, he noted continued improvement in pre-operative 
symptoms. He was ambulating, voiding, and tolerating a full 
diet. Pain was well-controlled on oral analgesics. He will 
continue to wear his cervical collar and follow-up in outpatient 
clinic as scheduled. 

 
Medications on Admission:
Diazepam 10 mg BID as needed for spasm
Oxycodone 10 mg 2 tablet q4h prn pain

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN fever or pain 
2. Acetaminophen-Caff-Butalbital ___ TAB PO Q4H:PRN pain 
Do not take more than 4 tabs per week.  
RX *butalbital-acetaminophen-caff 50 mg-300 mg-40 mg 1 
capsule(s) by mouth daily Disp #*10 Capsule Refills:*0
3. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
OTC Medication - Ask your Pharmacist 
4. Diazepam 10 mg PO Q8H:PRN muscle spasm 
RX *diazepam [Valium] 10 mg 1 tablet by mouth every eight (8) 
hours Disp #*30 Tablet Refills:*0
5. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*1
6. Senna 17.2 mg PO QHS 
OTC Medication - Ask your Pharmacist 
7. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth every 
four (4) hours Disp #*60 Tablet Refills:*0
8. Gabapentin 200 mg PO TID 
RX *gabapentin 100 mg 2 capsule(s) by mouth three times a day 
Disp #*180 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cervical Stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions
___

Surgery
- Your dressing may come off on the second day after surgery. 
- Your incision is closed with dissolvable sutures underneath 
the skin and steri strips. You do not need suture removal. Do 
not remove your steri strips, let them fall off.
- Please keep your incision dry for 72 hours after surgery.
- Please avoid swimming for two weeks.
- Call your surgeon if there are any signs of infection such as 
redness, fever, or drainage. 

Activity
- You must wear your hard cervical collar at all times. You may 
remove it briefly for skin care and showering. 
- We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
- You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
- No driving while taking any narcotic or sedating medication. 
- No contact sports until cleared by your neurosurgeon. 
- Do NOT smoke. Smoking can affect your healing and fusion.

Medications
- Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
- Do not take any anti-inflammatory medications such as Motrin, 
Advil, Aspirin, and Ibuprofen etc… for 2 weeks.
- You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
- You may use Dilaudid for moderate-severe pain as directed. Do 
not drive or drink alcohol while taking this medication, as it 
can make you drowsy.
- It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
- Severe pain, swelling, redness or drainage from the incision 
site. 
- Fever greater than 101.5 degrees Fahrenheit
- New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___